US07022825B2
Preparation of 2-Benzoxazolone and Chlorozoxazone Intermediates
Is prepared according to the method of paragraph C by reaction of N-propionyl-2-benzoxazolone with methoxyacetaldehyde.

reactant | N-propionyl-2-benzoxazolone | C(CC)(=O)N1C(OC2=C1C=CC=C2)=O | C10H9NO3
reactant | methoxyacetaldehyde | COCC=O | C3H6O2
product | 2-Benzoxazolone | O1C(NC2=C1C=CC=C2)=O | C7H5NO2
